US08058299B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (130 mg, 0.31 mmol), 4-(1H-tetrazol-5-yl)-cyclohexanecarboxylic acid (61 mg, 0.31 mmol), DMAP (2 mg, 0.016 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (71 mg, 0.37 mmol) in anhydrous DMF (2 mL) was stirred at room temperature for 2.5 days. The reaction was diluted in water (100 mL) and extracted with dichloromethane (2×100 mL) and ethyl acetate (1×100 mL), the organic layers combined, dried over sodium sulfate and purified by flash chromatograph with increasing concentrations of methanol in dichloromethane (0 to 10% over 20 min) to give 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{4-[4-(1H-tetrazol-5-yl)-cyclohexanecarbonyl]-piperazin-1-yl}-phenyl)-amide (90 mg, 49%) as a light yellow solid. LCMS calcd for C29H29F3N8O3 (m/e) 594, obsd 595(M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | 0.31 mmol, 130 mg | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H19F3N4O2
reactant | 4-(1H-tetrazol-5-yl)-cyclohexanecarboxylic acid | 0.31 mmol, 61 mg | N1N=NN=C1C1CCC(CC1)C(=O)O | C8H12N4O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.37 mmol, 71 mg | Cl.C(C)N=C=NCCCN(C)C
catalyst | DMAP | 0.016 mmol, 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-{4-[4-(1H-tetrazol-5-yl)-cyclohexanecarbonyl]-piperazin-1-yl}-phenyl)-amide | 90 mg, 49% | N1N=NN=C1C1CCC(CC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C29H29F3N8O3
